US04472433
A mixture of 2-oxo-7-(4-chlorophenylsulfonyl)indoline (3.3 g) and dioxane (20 ml) was added to a solution of sodium hydroxide (2.0 g) in water (20 ml), and the mixture was refluxed with stirring for 6 hrs. The reaction mixture was concentrated in vacuo, and the residue was dissolved in water. The aqueous solution was washed with diethyl ether, adjusted to pH 4 with 5% sulfuric acid and extracted with diethyl ether. The extract was washed with saline, dried over magnesium sulfate, treated with charcoal and then evaporated in vacuo to give 2-[2-amino-3-(4-chlorophenylsulfonyl)phenyl]acetic acid (2.8 g). mp 139°-141° C.

reactant | 2-oxo-7-(4-chlorophenylsulfonyl)indoline | 3.3 g | O=C1NC2=C(C=CC=C2C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C14H10ClNO3S
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 2-[2-amino-3-(4-chlorophenylsulfonyl)phenyl]acetic acid | 2.8 g | NC1=C(C=CC=C1S(=O)(=O)C1=CC=C(C=C1)Cl)CC(=O)O | C14H12ClNO4S
